US08026234B2
Compound 131: 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-ethylazetidin-3-yl)-2-fluoro-5-methoxybenzamide
The title compound was synthesized by following the Reductive Amination Procedure using N-(azetidin-3-yl)-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzamide and acetaldehyde. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.87 (t, J=7.20 Hz, 3H) 1.61 (br. s., 6H) 1.96 (br. s., 2H) 2.40 (q, 2H) 2.88 (t, J=6.32 Hz, 2H) 3.52 (t, J=5.81 Hz, 2H) 3.91 (s, 3H) 4.08 (t, J=13.77 Hz, 2H) 4.33-4.48 (m, 1H) 4.71-4.89 (m, 1H) 7.20 (d, J=4.04 Hz, 1H) 8.05 (s, 1H) 8.26 (d, J=13.39 Hz, 1H) 8.31 (d, J=3.28 Hz, 1H) 8.43 (d, J=7.07 Hz, 1H). [M+H] calculated for C26H32F3N7O3, 548. found 548.

reactant | N-(azetidin-3-yl)-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzamide | N1CC(C1)NC(C1=C(C=C(C(=C1)OC)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)F)=O | C24H28F3N7O3
reactant | acetaldehyde | C(C)=O | C2H4O
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-ethylazetidin-3-yl)-2-fluoro-5-methoxybenzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NC1CN(C1)CC)C=C2OC)F | C26H32F3N7O3
